US04487945
4-Ethyl-3-cyclohexen-1-one
To a stirred refluxing mixture of 600 ml of dry ether and 1600 ml of liquid ammonia was added 136 g of p-ethylanisole. After 15 minutes, there was added portionwise, at -35 ° to -32° C., a 26.4 g quantity of lithium ribbon over 0.5-1 hour. After an additional 15 minutes, 193 g of dry ethanol was added dropwise at -35° to -32° C. Stirring was continued until the blue color disappeared, and the ammonia was allowed to evaporate on standing overnight. The residue was poured into 1 l of ice water and extracted twice with ether. The combined ether extracts concentrated to a volume of about 300 ml was stirred with 250 ml of water containing 46 g of oxalic acid overnight at ambient temperature. This mixture was diluted with 1 liter of water and extracted twice with ether. The combined ether extracts were washed with 5% sodium bicarbonate and then with water. After drying, the ether solution was vacuum-concentrated to a residue of 104.4 g of desired product; it was 94% pure by GLC analysis and used without distillation.

reactant | ether | 600 ml | CCOCC | C4H10O
reactant | ammonia | N | H3N
reactant | p-ethylanisole | 136 g | C(C)C1=CC=C(C=C1)OC | C9H12O
reactant | lithium | [Li] | Li
solvent | ethanol | 193 g | C(C)O | C2H6O
product | 4-Ethyl-3-cyclohexen-1-one | C(C)C1=CCC(CC1)=O | C8H12O
